US08580957B2
A solution of 1,1-dimethylethyl[2-(4-{(2S,4R)-1-acetyl-2-methyl-4-[(6-methyl-2-pyridinyl)amino]-1,2,3,4-tetrahydro-6-quinolinyl}-1H-pyrazol-1-yl)ethyl]methylcarbamate for a preparation see Intermediate 69) (107.9 mg, 0.208 mmol) in dichloromethane (DCM) (4 mL) was treated with trifluoroacetic acid (TFA) (1 mL, 12.98 mmol) and the resulting mixture was stirred at room temperature for 1.5 h then concentrated in vacuo. The residue was loaded on a 5 g SCX cartridge then eluted with MeOH (20 mL) followed by 2M NH3 in MeOH (20 mL). The ammonia fractions were combined and concentrated in vacuo to give a residue which was dissolved in DCM (5 mL). The resulting solution was treated with HCl (1M in Et2O, 0.22 mL, 0.220 mmol) then concentrated in vacuo. Trituration of the residue with Et2O gave (2S,4R)-1-acetyl-2-methyl-6-{1-[2-(methylamino)ethyl]-1H-pyrazol-4-yl}-N-(6-methyl-2-pyridinyl)-1,2,3,4-tetrahydro-4-quinolinamine hydrochloride (79.5 mg, 0.161 mmol, 77% yield) as a beige solid.

reactant | 1,1-dimethylethyl[2-(4-{(2S,4R)-1-acetyl-2-methyl-4-[(6-methyl-2-pyridinyl)amino]-1,2,3,4-tetrahydro-6-quinolinyl}-1H-pyrazol-1-yl)ethyl]methylcarbamate | CC(C)(C)CN(C([O-])=O)CCN1N=CC(=C1)C=1C=C2[C@@H](C[C@@H](N(C2=CC1)C(C)=O)C)NC1=NC(=CC=C1)C
reactant | trifluoroacetic acid | 12.98 mmol, 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | HCl | 0.220 mmol, 1M, 0.22 mL | Cl | ClH
reactant | Et2O | CCOCC | C4H10O
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | DCM | 5 mL | ClCCl | CH2Cl2
product | (2S,4R)-1-acetyl-2-methyl-6-{1-[2-(methylamino)ethyl]-1H-pyrazol-4-yl}-N-(6-methyl-2-pyridinyl)-1,2,3,4-tetrahydro-4-quinolinamine hydrochloride | 0.161 mmol, 79.5 mg, 77% yield | Cl.C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C=1C=NN(C1)CCNC)NC1=NC(=CC=C1)C)C | InChI=1S/C24H30N6O.ClH/c1-16-6-5-7-24(27-16)28-22-12-17(2)30(18(3)31)23-9-8-19(13-21(22)23)20-14-26-29(15-20)11-10-25-4;/h5-9,13-15,17,22,25H,10-12H2,1-4H3,(H,27,28);1H/t17-,22+;/m0./s1
